US07485732B2
Step 1: Methyl (3,5-difluorophenyl)acetate
A solution of 5.0 g (29.1 mmol) of 3,5-difluorophenylacetic acid and a solution of 20 mL (80 mmol) of HCl in dioxane (4M) in 60 mL of methanol was heated at reflux for 6 h. After cooling, the solution was concentrated and the residue poured into 200 mL of ether/ethyl acetate (1/1). The organic layer was washed with 20 mL of water, dried over Na2S04 and concentrated to afford the title compound.

reactant | 3,5-difluorophenylacetic acid | 29.1 mmol, 5.0 g | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
reactant | HCl | 80 mmol, 20 mL | Cl | ClH
reactant | dioxane | 4M | O1CCOCC1 | C4H8O2
solvent | methanol | 60 mL | CO | CH4O
product | Methyl (3,5-difluorophenyl)acetate | FC=1C=C(C=C(C1)F)CC(=O)OC | C9H8F2O2
